US05455273
z) trans-N-(4-chlorobenzoyl)-N-methyl-4-[4-(1-(2-hydroxyethyl)methylaminoethyl)phenyl]cyclohexylamine
from trans-N-(4-chlorobenzoyl)-N-methyl-4-[4-(1-methylaminoethyl)phenyl]cyclohexylamine and bromoethanol. Melting point: 118°-120° C.

reactant | trans-N-(4-chlorobenzoyl)-N-methyl-4-[4-(1-methylaminoethyl)phenyl]cyclohexylamine | ClC1=CC=C(C(=O)N(C)[C@@H]2CC[C@H](CC2)C2=CC=C(C=C2)C(C)NC)C=C1 | C23H29ClN2O
reactant | bromoethanol | BrC(C)O | C2H5BrO
product | trans-N-(4-chlorobenzoyl)-N-methyl-4-[4-(1-(2-hydroxyethyl)methylaminoethyl)phenyl]cyclohexylamine | ClC1=CC=C(C(=O)N(C)[C@@H]2CC[C@H](CC2)C2=CC=C(C=C2)C(C)NCCCO)C=C1 | C25H33ClN2O2
